US07101864B1
p-Chlorobenzoylphosphonic acid
To a solution of dimethyl p-chlorobenzoylphosphonate (1 mmol) in dry dioxane (5 ml), BrMe3Si (3 mmol) was added dropwise under magnetic stirring, in nitrogen atmosphere at room temperature. After 5 h the solvent was removed under vacuum and the brown residue was dissolved in MeOH at 0° C. The solvent was evaporated and a solution of NaOH (1 mmol) in MeOH (5 ml) was added in portions. The white solid was filtered and dried under vacuum. Yield: 76%. NMR, 1H: 7.54 (d, 2H), 8.11 (d, 2H); 31P, −1.48 ppm.

reactant | dimethyl p-chlorobenzoylphosphonate | 1 mmol | ClC1=CC=C(C(=O)P(OC)(OC)=O)C=C1 | C9H10ClO4P
reactant | NaOH | 1 mmol | [OH-].[Na+]
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | MeOH | 5 ml | CO | CH4O
product | p-Chlorobenzoylphosphonic acid | Yield: 76% | ClC1=CC=C(C(=O)P(O)(O)=O)C=C1 | C7H6ClO4P
